US04771045
To a solution of 4.35 g of (3R,4R)-4-[[(methoxycarbonyl)methyl]thio]-3-tritylamino-2-azetidinone in 45 ml of ethanol is added 11 ml of 25 to 28% aqueous ammonia and the reaction mixture is allowed to stand at room temperature for 2 days. The mixture is further treated in the same manner as described in Reference Example 8 to give 1.804 g of (3R,4R)-4-[[(aminocarbonyl)methyl]thio]-3-tritylamino-2-azetidinone.

reactant | (3R,4R)-4-[[(methoxycarbonyl)methyl]thio]-3-tritylamino-2-azetidinone | 4.35 g | COC(=O)CS[C@@H]1[C@@H](C(N1)=O)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H24N2O3S
reactant | ammonia | 11 ml | N | H3N
solvent | ethanol | 45 ml | C(C)O | C2H6O
product | (3R,4R)-4-[[(aminocarbonyl)methyl]thio]-3-tritylamino-2-azetidinone | 1.804 g | NC(=O)CS[C@@H]1[C@@H](C(N1)=O)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H23N3O2S
